US07141690B2
Synthesis of (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)dimethylsilane
A solution of (2-allyloxy-3-tert-buyl-5-methylphenyl)chlorodimethylsilane (0.71 g, 2.40 mmol) in toluene (4 mL) was added dropwise to a solution of (2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)lithium (0.51 g, 2.40 mmol) in tetrahydrofuran (10 mL) at −78° C. The resulting reaction mixture was warmed to room temperature and stirred for 5 hours. After the solvent was distilled off under reduced pressure, hexane was added and the mixture was filtered to remove insoluble substances. The filtrate was concentrated under reduced pressure to quantitatively obtain (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)dimethylsilane.

reactant | (2-allyloxy-3-tert-buyl-5-methylphenyl)chlorodimethylsilane | 2.40 mmol, 0.71 g | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](C)(C)Cl | C16H25ClOSi
reactant | (2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)lithium | 2.40 mmol, 0.51 g | CC1C=C2C(S1)=C(C=1SC(=CC12)C)[Li]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)dimethylsilane | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](C)(C)C=1C=2SC(=CC2C=2C1SC(C2)C)C | C27H34OS2Si
